US07713996B2
Sodium cyanoborohydride (2.6 g, 41.6 mmol, 3 equiv.) was added to a stirred solution of 2-chloro-4-[(1H-indole-6-carbonyl)-amino]-benzoic acid methyl ester (1.4 g, 4.2 mmol, 1 equiv.) in acetic acid (25 mL) over 5 minutes at room temperature. The mixture was stirred for 30 minutes then cooled to 0° C. and poured onto concentrated ammonium hydroxide (78 mL, d=0.880) at 0° C. The mixture was diluted with water (25 mL) and dichloromethane (25 mL), the organic layer was separated and the aqueous layer extracted with dichloromethane (2×25 mL). The combined organic layers were dried over Na2SO4 and the solvent removed under vacuum to afford crude 2-chloro-4-[(2,3-dihydro-1H-indole-6-carbonyl)-amino]-benzoic acid methyl ester, 0.75 g, this material was taken onto the next step without further purification. LC @215 nm; Rt 1.04: 71%, m/z (ES+): 331 (M+H+.).

reactant | Sodium cyanoborohydride | 41.6 mmol, 2.6 g, 3 equiv. | C(#N)[BH3-].[Na+]
reactant | 2-chloro-4-[(1H-indole-6-carbonyl)-amino]-benzoic acid methyl ester | 4.2 mmol, 1.4 g, 1 equiv. | COC(C1=C(C=C(C=C1)NC(=O)C1=CC=C2C=CNC2=C1)Cl)=O | C17H13ClN2O3
reactant | ammonium hydroxide | 78 mL | [OH-].[NH4+]
solvent | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
solvent | water | 25 mL | O | H2O
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 2-chloro-4-[(2,3-dihydro-1H-indole-6-carbonyl)-amino]-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)NC(=O)C1=CC=C2CCNC2=C1)Cl)=O | C17H15ClN2O3
